US05610293
B. Synthesis of N,N'-Di(p-toluenesulfonyl)-1,2-diamino-4-methylpentane
To a stirred solution of 5N NaOH (100 ml) was added 1,2-diamino-4-methylpentane dihydrochloride prepared as in Example 5A (42.3 g, 0.223 mole). The resulting solution was saturated with NaCl and the amine was extracted with CH2Cl2 (5×200 ml). The extracts were combined, dried (MgSO4) and reduced in vacuo to a volume of 200 ml. This solution was then added dropwise to a stirred solution of p-toluenesulfonyl chloride (89.4 g, 0.469 mole) and triethylamine (47.5 g, 0.469 mole) in CH2Cl2 (400 ml) at 0° C. The addition required 1 h. The mixture was allowed to warm to room temperature and was stirred an additional 19 h. The mixture was then poured onto ice (1000 g) and the CH2Cl2 layer was separated. The CH2Cl2 layer was washed with 1N HCl, H2O and saturated NaCl solution and was dried (MgSO4). The solvent was removed in vacuo and the resulting yellow oil washed with hexane. The crude product was purified by recrystallization from CH2Cl2 -hexane to give 67.9 g (72% yield) of the product as a white crystalline solid: mp 138°-40° C.; 1H NMR (CDCl3) δ0.53 (d, J=6.5 Hz, 3 H), 0.68 (d, J=6.5 Hz, 3 H), 1.21 (m, 2 H), 1.34 (sept, J=6.6 Hz, 1 H), 2.43 (s, 6 H), 2.87 (m, 1 H), 3.02 (m, 1 H), 3.18 (m, 1 H), 4.74 (d, J=7.5 Hz, 1 H), 5.16 (t, J=6.3 Hz, 1 H), 7.30 (d, J=8.8 Hz, 4 H), 7.72 (m, 4 H).

reactant | NaOH | 5N, 100 ml | [OH-].[Na+]
reactant | 1,2-diamino-4-methylpentane dihydrochloride | Cl.Cl.NCC(CC(C)C)N
reactant | NaCl | [Na+].[Cl-]
reactant | p-toluenesulfonyl chloride | 0.469 mole, 89.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.469 mole, 47.5 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | N,N'-Di(p-toluenesulfonyl)-1,2-diamino-4-methylpentane | 67.9 g, 72% yield | C1(=CC=C(C=C1)S(=O)(=O)NCC(CC(C)C)NS(=O)(=O)C1=CC=C(C=C1)C)C | C20H28N2O4S2
